US05704948
3.8 g of palladium on carbon at 5% by weight and containing 50% of water were introduced into a solution of 9.4 g of 4-oxo-4,5,6,7-tetrahydro-1-N-(β,γ-dihydroxypropyl)-indole, obtained in the preceding stage, in 50 cm3 of diglyme. The temperature of the reaction medium was raised to the reflux temperature of diglyme and the water was distilled off by azeotropy. After 23 hours of reaction, the catalyst was filtered off on celite and then the diglyme was evaporated off under vacuum. The crude product obtained was chromatographed on silica gel (ethyl acetate/heptane=9/1 ). 4.2 g of 4-hydroxy-1-N-(β,γ-dihydroxypropyl)indole were obtained in the form of a very viscous oil whose analysis by 1H and 13C nuclear magnetic resonance was in conformity with the expected product.

reactant | water | O | H2O
reactant | 4-oxo-4,5,6,7-tetrahydro-1-N-(β,γ-dihydroxypropyl)-indole | 9.4 g | O=C1C=2C=CN(C2CCC1)CC(CO)O | C11H15NO3
catalyst | palladium on carbon | 3.8 g | [Pd] | Pd
solvent | diglyme | 50 cm3 | COCCOCCOC | C6H14O3
product | 4-hydroxy-1-N-(β,γ-dihydroxypropyl)indole | 4.2 g | OC1=C2C=CN(C2=CC=C1)CC(CO)O | C11H13NO3
